US06403595B1
A mixture of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-(chloromethanesulfonyl)-2-piperazinone (2.47 g), 5-chlorosalicylaldehyde (917 mg), potassium carbonate (810 mg) and DMF (30 ml) was stirred at 100° C. for 2 days, and the reaction solution was concentrated. To the residue was added water, and the mixture was extracted with ethyl acetate, washed with water and brine, dried and concentrated. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:4) to give colorless solid of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-(5-chlorobenzofuran-2-sulfonyl)-2-piperazinone (272 mg).

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-(chloromethanesulfonyl)-2-piperazinone | 2.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)CCl)=O | C16H28ClN3O5S
reactant | 5-chlorosalicylaldehyde | 917 mg | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | potassium carbonate | 810 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-(5-chlorobenzofuran-2-sulfonyl)-2-piperazinone | 272 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C=1OC2=C(C1)C=C(C=C2)Cl)=O | C23H30ClN3O6S
